US04661636
0.615 g of 2-aminomethyl-4-(1,1-dimethylethyl)-6-ethylsulfonylphenol hydrochloride are reacted with 0.36 g of urotropine in 8 ml of trifluoroacetic acid to give 2-formyl-4-(1,1-dimethylethyl)-6-ethylsulfonylphenol in analogy to Example 1.

reactant | 2-aminomethyl-4-(1,1-dimethylethyl)-6-ethylsulfonylphenol hydrochloride | 0.615 g | Cl.NCC1=C(C(=CC(=C1)C(C)(C)C)S(=O)(=O)CC)O
reactant | urotropine | 0.36 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | trifluoroacetic acid | 8 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-formyl-4-(1,1-dimethylethyl)-6-ethylsulfonylphenol | C(=O)C1=C(C(=CC(=C1)C(C)(C)C)S(=O)(=O)CC)O | C13H18O4S
